US03932661
A mixture consisting of 17.7 g. (0.10 mole) 2,5-dichlorophenylhydrazine, 100 ml. benzene, and 22.6 g. (0.10 mole) benzoic anhydride was heated at the reflux temperature for 1 1/2 hrs. After cooling the reaction mixture to about 25°C., it was filtered. The filtrate was evaporated to dryness, and the residue was combined with solids on the filter before dispersing the solids in 700 ml. water basified with 50% aqueous sodium hydroxide to slight alkalinity. The thus washed solids were recovered on a filter, washed with more water, and recrystallized from 225 ml. 95% ethanol. There was thus obtained 23.1 g. (82.2% yield) benzoic acid (2,5-dichlorophenyl)hydrazide having a melting point of 160.5° to 161.5°C. An analytical sample melting at 161° to 162°C. was obtained by recrystallization from 95% ethanol.

reactant | 2,5-dichlorophenylhydrazine | 0.10 mole | ClC1=C(C=C(C=C1)Cl)NN | C6H6Cl2N2
reactant | benzoic anhydride | 0.10 mole | C(C1=CC=CC=C1)(=O)OC(C1=CC=CC=C1)=O | C14H10O3
solvent | benzene | C1=CC=CC=C1 | C6H6
product | benzoic acid (2,5-dichlorophenyl)hydrazide | 82.2% yield | ClC1=C(C=C(C=C1)Cl)N(N)C(C1=CC=CC=C1)=O | C13H10Cl2N2O
